US07713979B2
3-(2-Chloro-4-phenylamino-benzyl)-1-cyclohexyl-pyrrolidin-2-one
Prepare essentially as described in Example 228, using 3-(4-bromo-2-chloro-benzyl)-1-cyclohexyl-piperidin-2-one and aniline. Evaporate the crude reaction mixture and purify by chromatography on silica gel to give the title compound (127 mg, 61%). MS (ES+) m/z=383 (M+H)+.

reactant | 3-(4-bromo-2-chloro-benzyl)-1-cyclohexyl-piperidin-2-one | BrC1=CC(=C(CC2C(N(CCC2)C2CCCCC2)=O)C=C1)Cl | C18H23BrClNO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 3-(2-Chloro-4-phenylamino-benzyl)-1-cyclohexyl-pyrrolidin-2-one | 127 mg, 61% | ClC1=C(CC2C(N(CC2)C2CCCCC2)=O)C=CC(=C1)NC1=CC=CC=C1 | C23H27ClN2O
